US05426119
b) Methyl 6-(2-aminoindan-5-yl)-6-(3-pyridyl)hex-5-enoate
3.1 g of 6-(2-acetylaminoindan-5-yl)-6-(3-pyridyl)hex-5-enoic acid are refluxed for 15 hours with 20 ml of half concentrated hydrochloric acid and then rotary evaporated. The residue is then added to 50 ml of methanol saturated with dry hydrogen chloride. After 30 minutes stirring at ambient temperature the reaction mixture is rotary evaporated to dryness. The residue is taken up in 1N sodium hydroxide solution and adjusted to pH 10. It is then extracted 3 times with 50 ml of methylene chloride, the organic phase is dried and rotary evaporated.

reactant | 6-(2-acetylaminoindan-5-yl)-6-(3-pyridyl)hex-5-enoic acid | 3.1 g | C(C)(=O)NC1CC2=CC=C(C=C2C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C22H24N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
product | Methyl 6-(2-aminoindan-5-yl)-6-(3-pyridyl)hex-5-enoate | NC1CC2=CC=C(C=C2C1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C21H24N2O2
